Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.76406678576
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:9][C:10]([H:11])([H:12])[H:13].[H:8],4.78402652828
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11]>>[H:4].[O:1]=[C:2]([H:3])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11],0.8445337249379999
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.37339346704
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])=[C:10][H:11],-0.14945721363
[C:3]([H:4])#[C:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])[H:11],-3.28097616672
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:10]([C:9]=[O:8])([H:11])[H:12]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9][C:10]1([H:11])[H:12],-1.26787304027
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],1.80364780806
[C:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3][O:4][H:5])[C:9]([H:10])([H:11])[H:12].[C:6]([H:7])[H:8],7.15870692634
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.85159499421
[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.95608436196
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8].[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.90388973358
[C:2]([H:3])#[C:7][C:8]([H:9])([H:10])[H:11].[O:1][C:5](=[O:4])[H:6]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11],-1.2360641032100002
[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.35690856946
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:3]([H:4])=[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],3.97835056514
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])[H:12])=[C:13]([H:14])[H:15]>>[C:9](=[C:10]([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],2.26141189577
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]=[O:4],-1.0694084566600002
[C:1]#[C:2].[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],-7.39794919128
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]=[O:3],0.7551837478
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],4.1962443935300024
[H:1].[O:2][C@@:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.5710761427
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.41519187062
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],5.53769003273
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.37158658757
[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]=[O:2].[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],-0.800897294621
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3],1.65678921541
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7],1.81215274231
